US03932398
1-(2-Chloroethyl)pyridinium Chloride.
A solution of pyridine (100 g, 1.25 mole) in 800 ml. of 1,2-dichloroethane was refluxed for 72 hours. The white crystalline material which formed was filtered, washed repeatedly with fresh 1,2-dichloroethane and dried. Collected 200 g (89 per cent yield), nmr (D2O) ppm (δ), 4.3 (t, 3), 5.6 (t, 3), 8.1 - 9.3 (m, 5).

reactant | pyridine | 1.25 mole, 100 g | N1=CC=CC=C1 | C5H5N
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(2-Chloroethyl)pyridinium Chloride | [Cl-].ClCC[N+]1=CC=CC=C1 | InChI=1S/C7H9ClN.ClH/c8-4-7-9-5-2-1-3-6-9;/h1-3,5-6H,4,7H2;1H/q+1;/p-1
